US20010021718A1
(3R)-6-Cyclohexyl-3-[3-(1 -pyrrolidinylcarbonyl)-1,2,4-oxadiazol-5-yl]hexanoic acid
A solution of tert-butyl (3R)-6-cyclohexyl-3-[3-(1-pyrrolidinylcarbonyl)-1,2,4-oxadiazol-5-yl]hexanoate (Preparation 12) (356 mg, 0.85 mmol) in dichloromethane (4 ml) was treated with trifluoroacetic acid (1 ml) and the resulting mixture was stirred at room temperature under a nitrogen atmosphere for 17 hours. The solvent was removed under reduced pressure and the residue azeotroped from toluene to afford the title compound (288 mg).

reactant | tert-butyl (3R)-6-cyclohexyl-3-[3-(1-pyrrolidinylcarbonyl)-1,2,4-oxadiazol-5-yl]hexanoate | 0.85 mmol, 356 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)C(=O)N1CCCC1 | C23H37N3O4
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | (3R)-6-Cyclohexyl-3-[3-(1 -pyrrolidinylcarbonyl)-1,2,4-oxadiazol-5-yl]hexanoic acid | 288 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)C(=O)N1CCCC1 | C19H29N3O4
